US06723747B2
6H-dibenzo[c,h]chromene-1,8-diol
The title compound was prepared by reacting 1,8-dimethoxy-6H dibenzo[c,h]chromene (1.0 g, 3.42 mmol) with pyridine hydrochloride (5.0 g, 43.3 mmol) according to method D to yield 0.93 g (99%) white foam. mp 213-214° C.; 1H NMR (300 MHz, DMSO-d6) δ 5.21 (2H, s), 6.72 (1H, d, J=1.9 Hz), 6.82 (2H, m), 7.27 (1H, t, J=7.9 Hz), 7.54 (1H, d, J=8.3 Hz), 7.68 (1H, d, J=8.4 Hz), 7.78 (2H, brs), 9.72 (1H, s), 10.09 (1H, s); MS m/z263 (M−H+);

reactant | 1,8-dimethoxy-6H dibenzo[c,h]chromene | 3.42 mmol, 1.0 g | COC1=CC=CC=2C1=CC=C1C3=C(COC21)C=C(C=C3)OC | C19H16O3
reactant | pyridine hydrochloride | 43.3 mmol, 5.0 g | Cl.N1=CC=CC=C1
product | 6H-dibenzo[c,h]chromene-1,8-diol | C=1(C=CC=C2C1C=CC=1C3=C(COC21)C=C(C=C3)O)O | C17H12O3
